US04859229
A solution of 2.00 g of 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6 -methyl-2,4(1H,3H)-pyrimidinedione in 20 ml dimethylformamide is added dropwise at room temperature while stirring within 30 minutes to a suspension of 0.28 g of a 55% sodium hydride dispersion in 10 ml of dimethylformamide. The mixture is subsequently stirred for 30 minutes and thereafter 5.26 g of chlorodifluoromethane are introduced at 55° C. while stirring during 18 hours. The reaction mixture is cooled, poured into a solution of 20 ml of 2N hydrochloric acid in 300 ml of water and extracted with 150 ml of ethyl acetate. The organic phase is washed twice with 100 ml of water each time, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is dissolved in 100 ml of diethyl ether and the solution is treated with active carbon and filtered. The filtrate is evaporated to dryness and the residue is recrystallized from diethyl ether/n-hexane. There is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1-difluoromethyl-6 -methyl-2,4(1H,3H)-pyrimidinedione, m.p. 97°-99° C.

reactant | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6 -methyl-2,4(1H,3H)-pyrimidinedione | 2.00 g | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=CC1=O)C)=O)F | C14H14ClFN2O3
reactant | sodium hydride | [H-].[Na+]
reactant | chlorodifluoromethane | 5.26 g | ClC(F)F | CHClF2
reactant | hydrochloric acid | 2N, 20 ml | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1-difluoromethyl-6 -methyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(N(C(=CC1=O)C)C(F)F)=O)F | C15H14ClF3N2O3
